US09416135B2
To a solution of 1-isopropyl-7-(methylthio)-1,2,3,4-tetrahydropyrazino[1,2-a]indole (100 mg, 0.38 mmol) and DIPEA (248.3 mg, 1.921 mmol) in i-PrOH (3 mL) was added ethyl 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylate (196 mg, 0.77 mmol). The reaction mixture was stirred at rt overnight. The mixture was concentrated and purified by preparative TLC on silica gel eluting with PE/EtOAc 1:1 to afford ethyl 2-(1-isopropyl-7-(methylthio)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylate (60 mg, 32.6% yield) as a colorless oil. LC-MS MS (ESI) m/z 478.7 [M+H]+.

reactant | 1-isopropyl-7-(methylthio)-1,2,3,4-tetrahydropyrazino[1,2-a]indole | 0.38 mmol, 100 mg | C(C)(C)C1NCCN2C1=CC=1C=CC(=CC21)SC | C15H20N2S
reactant | DIPEA | 1.921 mmol, 248.3 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylate | 0.77 mmol, 196 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)OCC | C8H6ClF3N2O2
solvent | i-PrOH | 3 mL | CC(C)O | C3H8O
product | ethyl 2-(1-isopropyl-7-(methylthio)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylate | 60 mg, 32.6% yield | C(C)(C)C1N(CCN2C1=CC=1C=CC(=CC21)SC)C2=NC=C(C(=N2)C(F)(F)F)C(=O)OCC | C23H25F3N4O2S
